Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
coronary angiogram (___)

 
History of Present Illness:
Mr. ___ is a ___ year old male patient-medical history 
significant for hyperlipidemia, OSA, and prior tobacco use (quit 
___ years ago), as well as a family history of CAD who presented 
to the Emergency Department at ___ after being seen by his 
Cardiologist and then in the ED at ___. 
 
He was seen by his cardiologist cardiology on ___ and sent to 
the emergency department after an echo-cardiogram showed 
inferior wall motion abnormalities in the setting of progressive 
exertional chest discomfort worsening over the past ___ months. 
Given the patient's symptoms and echo results showing a
hypokinetic inferior septum and mid inferior wall, it was felt 
that the patient should be transferred to ___ for a 
catheterization.  
 
In the ED at ___, the patient appeared well, had normal vital 
signs, and his lung and cardiac exam were unremarkable. He had 
no peripheral edema or JVD. An EKG showed normal sinus rhythm, 
rate 70 bpm, no evidence of acute ischemia or arrhythmia. Labs 
obtained showed a Troponin 0.03 and Cr of 1.2. Given the
patient's cardiologist's recommendation for an urgent cardiac 
cath the patient was transferred to ___ 
___.
 
In the ED, at ___, the patient's vitals were within normal 
limits, his exam was unremarkable, and his EKG showed NSR 
without signs of ischemia. Labs showed a troponin of <0.01 and 
normal Chem-10 and CBC. The patient received 324mg of ASA and 
was admitted to ___ for cath in the AM. 

On arrival to the floor, patient reports the he is feeling well 
and chest pain free. He has no shortness of breath, 
palpitations, or chest pain. He endorses the above history.
 
Past Medical History:
- GERD (gastroesophageal reflux disease)
- Hyperlipidemia LDL goal < 130
- Erectile dysfunction
- Chest pain on exertion
- Obesity (BMI 30.0-34.9)
- Pulmonary nodule seen on imaging study
- Obstructive sleep apnea syndrome
 
Social History:
___
Family History:
- Father had bypass surgery in his ___ and died at age ___ after
suffering a stroke. 
- Mother died of lung cancer at age ___.  
- He has a few paternal uncles who have coronary artery disease.
 
Physical Exam:
ADMISSION EXAM
==================================
VS: T-97.9, BP- 137/91, HR-69, RR- 18, O2- 95 RA
General: Resting comfortably in bed in NAD. 
HEENT: Moist mucous membranes. PERRLA, EOMI. 
NECK: Difficult to assess JVP, no carotid bruits, no LAD.
CHEST: Clear to auscultation, no crackles or rhonchi.
HEART: Regular rate and rhythm. No murmur, gallops, or rubs. 
ABDOMEN: Obese. Soft, non-tender. +Bowel Sounds. 
EXTREMITIES: Warm and well perfused. 2+ pulses at DP and ___. No
peripheral pedal edema.  
NEURO: A&O X 3
SKIN: No rash on exposed skin. 
 
DISCHARGE EXAM
==================================
___ 0927 Temp: 97.9 PO BP: 123/67 L Lying HR: 72 RR: 18 O2
sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
General: Resting comfortably in NAD. 
HEENT: Moist mucous membranes. PERRLA, EOMI. 
NECK: Difficult to assess JVP, no carotid bruits, no LAD.
CHEST: Clear to auscultation, no crackles or rhonchi.
HEART: Regular rate and rhythm. No murmur, gallops, or rubs. 
ABDOMEN: Obese. Soft, non-tender. +Bowel Sounds. 
EXTREMITIES: Warm and well perfused. 2+ pulses at DP and ___. No
peripheral pedal edema.  
NEURO: A&O X 3
SKIN: No rash on exposed skin. 
 
Pertinent Results:
ADMISSION LABS
==================================
___ 08:40PM BLOOD WBC-7.3 RBC-4.86 Hgb-14.2 Hct-43.7 MCV-90 
MCH-29.2 MCHC-32.5 RDW-12.4 RDWSD-40.6 Plt ___
___ 08:40PM BLOOD Neuts-41.8 ___ Monos-8.5 Eos-6.6 
Baso-0.7 Im ___ AbsNeut-3.06 AbsLymp-3.07 AbsMono-0.62 
AbsEos-0.48 AbsBaso-0.05
___ 08:40PM BLOOD ___ PTT-34.6 ___
___ 08:40PM BLOOD Glucose-98 UreaN-19 Creat-1.0 Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-11
___ 08:40PM BLOOD cTropnT-<0.01
___ 08:40PM BLOOD proBNP-9
___ 08:40AM BLOOD %HbA1c-5.6 eAG-114
 
PERTINENT LABS
==================================
___ 08:40PM BLOOD cTropnT-<0.01
___ 08:40PM BLOOD proBNP-9
___ 08:40AM BLOOD %HbA1c-5.6 eAG-114
 
DISCHARGE LABS
==================================
___ 07:31AM BLOOD WBC-7.8 RBC-5.05 Hgb-15.1 Hct-45.6 MCV-90 
MCH-29.9 MCHC-33.1 RDW-12.5 RDWSD-41.0 Plt ___
___ 07:31AM BLOOD Glucose-91 UreaN-16 Creat-0.9 Na-143 
K-4.4 Cl-107 HCO3-22 AnGap-14
___ 07:31AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.___ man with history of HLD, OSA, and prior tobacco use 
who initially presented to his cardiologist with subacute 
symptoms of chest pain. Transferred to ___ for diagnostic 
coronary angiogram without evidence of obstructive CAD. 
Medically optimized and discharged home.
 
# CHEST PAIN
Initially presented to his cardiologist on ___ with progressive 
dyspnea. TTE demonstrated hypokinetic inferior septum and mid 
inferior wall. Transferred to ___ for coronary catheterization 
which did not demonstrate any obstructive CAD. His symptoms 
remained stable throughout hospitalization and he was otherwise 
feeling well. Medically optimized and discharged home with plan 
for PCP and cardiology follow up if ongoing symptoms.
 
CHRONIC ISSUES
===========================
 
# HYPERTENSION 
- continue metoprolol
 
# HYPERLIPIDEMIA 
- high intensity statin
 
# OSA 
Not on CPAP at home.
 
TRANSITIONAL ISSUES
===========================
 
[ ] Outpatient follow up if symptoms of chest pain or shortness 
of breath persist.
 
CONTACT: ___ (wife: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing  
3. Atorvastatin 40 mg PO QPM 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing   
4.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- non-ischemic chest pain

SECONDARY DIAGNOSES
- non-obstructive coronary artery disease
- obstructive sleep apnea
- hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- chest pain
- shortness of breath

What was done for you in the hospital:
- heart catheterization which did not show any blockages in your 
heart arteries

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___